US08471005B2
6-Fluoro-7-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one
Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.080 g, 0.21 mmol) and 7-Amino-6-fluoro-3,4-dihydro-1H-quinolin-2-one (0.045 g, 0.25 mmol) were reacted in an analogous manner to Example 908D at 50° C. for 16 h. The product was triturated and washed with acetone. LC/MS: 403.9 (M+H)HPLC: 2.966 min, 99% purity. MP: 300-305° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.57 (s, 1H), 7.91 (d, J=7.6 Hz, 1H) 7.62-7.53 (m, 2 h), 7.44 (s, 1H), 7.24-7.23 (m, 1H), 7.19-7.01 (m, 6H), 7.17-7.10 (m, 3H), 7.08 (s, 1H), 8.89 (s, 3H), 2.94 (t, 2H), 2.66, (t, 2H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.21 mmol, 0.080 g | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 7-Amino-6-fluoro-3,4-dihydro-1H-quinolin-2-one | 0.25 mmol, 0.045 g | NC1=C(C=C2CCC(NC2=C1)=O)F | C9H9FN2O
product | 6-Fluoro-7-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one | FC=1C=C2CCC(NC2=CC1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)=O | C22H18FN5O2
